US05495023
To a solution of (E,E)-4-ethyl-6-methyl-2,4-heptadien-1-ol (23.8 g) in pyridine (61.4 g) at 0° C. was added dropwise acetic anhydride (50.9 g). After two hours, the reaction mixture was diluted with dichloromethane. The solution was washed with water and brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The residue was chromatographed on silica gel (3% ethyl acetate-hexane) to give (E,E)-1-acetoxy-4-ethyl-6-methyl-2,4-heptadiene (24.11 g) as an oil.

reactant | (E,E)-4-ethyl-6-methyl-2,4-heptadien-1-ol | 23.8 g | C(C)/C(/C=C/CO)=C\C(C)C | C10H18O
reactant | acetic anhydride | 50.9 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 61.4 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | (E,E)-1-acetoxy-4-ethyl-6-methyl-2,4-heptadiene | 24.11 g | C(C)(=O)OC\C=C\C(=C\C(C)C)\CC | C12H20O2
